US04968668
256 g of methyl ethyl ketone, 80 g of powdered NaOH, 28 g of calcium oxide and 10 g of tetrabutylammonium bromide were warmed with stirring. 141 g of 3-methylbenzyl chloride were added dropwise in the course of 90 minutes at 70° C. The mixture was then boiled under reflux for 1 hour, cooled, filtered and washed with methyl ethyl ketone, and the filtrate was concentrated and distilled through a 30-cm long column containing steel helices. 86% pure 3-(3-methylbenzyl)-butanone was obtained at a boiling point of 80° C. at 0.4 mbar in 40% yield.

reactant | NaOH | 80 g | [OH-].[Na+]
reactant | calcium oxide | 28 g | [O-2].[Ca+2]
reactant | 3-methylbenzyl chloride | 141 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
catalyst | tetrabutylammonium bromide | 10 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methyl ethyl ketone | 256 g | C(C)C(=O)C | C4H8O
product | 3-(3-methylbenzyl)-butanone | 86% | CC=1C=C(CC(C(C)=O)C)C=CC1 | C12H16O
